US04032573
To a solution of 4.0 g of 2-bromo-2'-acetyl-6'-methylacetanilide in 60 ml of toluene was added 2.5 g of diethylamine at room temperature. The resultant mixture was stirred at room temperature overnight. The reaction mixture was washed with water, dried over anhydrous sodium sulfate and evaporated to give an oily residue. The residue was dissolved in ether and hydrogen chloride was added to the solution to give crystals. Recrystallization from ethanol-ether gave 2-(diethylamino)-2'-acetyl-6'-methylacetanilide hydrochloride having a melting point of 141° to 143° C.

reactant | 2-bromo-2'-acetyl-6'-methylacetanilide | 4.0 g | BrCC(=O)NC1=C(C=CC=C1C)C(C)=O | C11H12BrNO2
reactant | diethylamine | 2.5 g | C(C)NCC | C4H11N
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 2-(diethylamino)-2'-acetyl-6'-methylacetanilide hydrochloride | Cl.C(C)N(CC(=O)NC1=C(C=CC=C1C)C(C)=O)CC | InChI=1S/C15H22N2O2.ClH/c1-5-17(6-2)10-14(19)16-15-11(3)8-7-9-13(15)12(4)18;/h7-9H,5-6,10H2,1-4H3,(H,16,19);1H
